US07501406B2
b) 4-{[(4-Chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid
4-{[(4-Chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid methyl ester (130 mg, 0.26 mmol) was dissolved in THF/MeOH (5 ml) and treated with 1 N NaOH (1.2 ml) for 1.5 h. The reaction mixture was concentrated under reduced pressure diluted using water and extracted with diethyl ether. The aqueous phase was acidified using a 5% KHSO4/10% K2SO4 mixture and extracted with ethyl acetate (3×). The combined organic fractions were washed with brine, dried (Na2SO4), filtered, concentrated under reduced pressure (103 mg). Crude product (50 mg) was purified using preparative RP(C18) chromatography: lyophilisate 22 mg;

reactant | 4-{[(4-Chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid methyl ester | 0.26 mmol, 130 mg | COC(C1=CC(=C(C=C1)CN([C@H]1C(NCCC(C1)(F)F)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)F)=O | C21H20ClF3N2O5S
reactant | NaOH | 1 N, 1.2 ml | [OH-].[Na+]
solvent | THF MeOH | 5 ml | C1CCOC1.CO
product | 4-{[(4-Chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCC(C1)(F)F)=O)CC1=C(C=C(C(=O)O)C=C1)F | C20H18ClF3N2O5S
